Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Vancomycin / Iodine; Iodine Containing / Meropenem / Ceftriaxone 
/ Ciprofloxacin / Flagyl
 
Attending: ___.
 
Chief Complaint:
dizziness
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Mrs. ___ is a ___ female with history of atrial 
fibrillation, MI s/p CABG, AML s/p allogenic TP (on ___ 
+690 following alloSCT, GVHD on low dose steroids who presents 
to ___ clinic with dizziness.
Initially admitted ___ for abd pain, found to have perforated 
diverticulum, now s/p sigmoid resection, ___, 
end-colectomy. Course also complicated by afib/rvr, RSV+, O2 
requirement, RUL opacities, pleural effusions, started Zosyn 
___ and she was discharged home on zosyn for extended 
coverage for a complicated post-operative infection and 
intra-abdominal abscesses. 
.
On day of admit, patient presented with husband after "feeling 
dizzy at home." Patient reports nausea and dizzy over past one 
to two days in setting of decreased fluid intake and poor solid 
food intake; also reported acid feeling in stomach on ppi bid. 
She was seen last week in clinic at which time po intake was 
reduced but improving. At home, BP 119/49, HR 60. Upon arrival 
to ___, lying BP 125/58 hr57, sitting 117/61 hr 62, standing BP 
106/62 66. Received 1.5L NS over 3hrs prior to admit to floor, 
with resolution of orthostasis but not without resolution of 
dizzy feeling. Pt admitted to 7S for further work-up of 
dizziness. 
 
Past Medical History:
- Coronary Artery Disease, STEMI in ___ s/p PCI/stenting to 
RCA at that time
- History of AML, s/p chemotherapy, radiation and bone marrow 
transplantation
- Hypertension  
- Hypercholesterolemia  
- GERD  
- Type two diabetes mellitus - diet controlled  
- Diverticulosis, noted on colonoscopy ___ years ago  
- Occasional bronchospasm treated with Primatene Mist  
- History of SVC clot ___ PORT (s/p course of lovenox)  
- History of C.Diff ___ & ___  
- History of VRE
- History of Shingles
- History of Asthma

 
Social History:
___
Family History:
The patient's mother with a history of stroke. Both of her 
maternal and paternal grandmothers also had a history of CVA. 
Father with history of colon ___. No other known history of 
cancer in the family. No known blood disorders. Has a sister 
with ___. She has 2 sisters, the other sister with 
hypertension. 
 
Physical Exam:
PHYSICAL EXAM:
Vitals - T:96.7 BP:120/58 HR:72 RR:18 02 sat:96% on RA
HEENT: NCAT, PERRL, EOMI, no pharyngeal erythema, no scleral 
icterus, no nasal d/c, no LAD, tympanic membranes visible with 
light reflex on umbo bilaterally, no canal erythema.
Cardiac: rrr nls1/s2 no m/r/g
Pulm: no crackles appreciated, no rhonci, no wheezes
Abd: + ostomy bag in place, no surrounding erythema, +bs, soft, 
NTND, no HSM
UE: L PICC in place with no erythema +non pitting edema in UEs
___: + non pitting edema in ___ up to thigh
Neuro: alert and awake, ___ reflexes +2, no nystagmus 
 
Pertinent Results:
ADMISSION LABS:
___ 12:00AM   GLUCOSE-139* UREA N-7 CREAT-1.0 SODIUM-138 
POTASSIUM-4.1 CHLORIDE-104 TOTAL CO2-26 ANION GAP-12
___ 12:00AM   CALCIUM-8.7 PHOSPHATE-2.0* MAGNESIUM-1.9
___ 12:00AM   WBC-6.1 RBC-3.70* HGB-11.1* HCT-34.3* MCV-93 
MCH-30.0 MCHC-32.3 RDW-17.9*
___ 12:00AM   PLT COUNT-298
___ 12:00AM   ___ PTT-80.6* ___
.

___ CT HEAD W/OUT CONTRAST: 
IMPRESSION:
 
1. No evidence of acute intracranial abnormalities. MRI is more 
sensitive
for an acute infarcton.
 
2. Aerosolized secretions and fluid in the left sphenoid and 
left maxillary
sinuses, which may indicate acute sinusitis Correlation with 
clinical
symptoms is recommended.

___ CT abd: Decreased amount of fluid within the left flank 
and pelvic collection, status post catheter removal. No new 
collection. Stable right lower quadrant collection. 

 
Brief Hospital Course:
___ h/o afib, MI s/p CABG, AML s/p allogenic TP (on ___, 
GVHD s/p sigmoid resection, ___, and end-colectomy for 
perforated diverticulum and ___ drain placement, p/w dizziness 
and malaise.
.
# dizziness: ddx likely ___ dehydration or decreased PO intake 
over previous days. She was orthostatic on admission which 
resolved with 2L IVF. No PE findings of inner ear infection, no 
reports of fevers or chills to suggest labyrinthine or systemic 
infection. Has been on amio and zosyn, and LFTs rose slightly 
during admission which will be followed by oncology as 
outpatient. CT scan of head showed mild sinusitis. As she has 
been on long term prednisone, iv dexamethasone 10mg q8 as per 
heme-onc (adrenal insufficiency) was started. Quickly this dose 
was decreased an an endocrine consult was placed to started 
prednisone 40mg PO qday and taper down to new baseline of 7.5mg 
PO qday.  She will f/u with endocrine in ___. In addition, 
because of ongoing symptoms, neuro was consulted and did not 
feel this was an acute neurologic problem.  They suggested 
possible orthostatic or meds as a cause and suggested TEDs 
stockings.  She was seen and cleared by ___ prior to discharge.
.
# past abd perforation: note pt was on caspo/gent/zosyn on 
previous admission, then dc'ed on zosyn. On this admission 
clinical exam not supportive of intra-abdominal process, anion 
gap normal, lactate nl, LFTs within nl limits. She was continued 
on zosyn and then had a CT abd to evaluate interval improvement. 
As the abscess was improved but still present, she was 
discharged on Zosyn until she follows up with her surgeon and a 
plan is established next week.
.
# h/o AML, s/p chemotx/XRT, BMT: of note, received high dose 
steroids at time of operation, then tapered to 3mg qd upon 
discharge. She was on acyclovir 400mg PO TID. She received 
inhaled pentamidine on ___ and on ___ prior to discharge. 
Started on IV dexamethasone initially and then switched to PO 
prednisone as described above.
.
# anemia: last hospitalization, given b12 shot on ___ did 
require blood transfusions during hospitalization both periop 
and ___ drainage. Did not require transfusions this 
admission.
.
# CAD s/p STEMI ___ - RCA stent placed and endoscopic CABG. 
During previous hospitalization, continued on ___, 
statin. Cont amiodorone 400mg bid, ___ and ___. BB held but 
restarted prior to discharge.
.
# A-fib: on previous hospitalization, converted back to NSR with 
amiodarone; warfarin was restarted, but warfarin was then 
discontinued, amiodorone appears on ___ medication list. Held 
metoprolol for dizzy symptoms, continued amiodorone 400mg bid, 
___, and ___.
.
# GERD: cont ppi 40mg bid, prn tums
.
# ARF: cr baseline 1.0 to 1.1, admitted with cr 1.3, UOP 
maintained, other electrolytes within nl limits. Improved with 
hydratoin
.
# DM – normally diet controlled. Titrated up HISS sliding scale 
because of prednisone but did not discharge patient on insulin
.
# ppx: hep sq, ppi bid, iss 
 
Medications on Admission:
1. Latanoprost 0.005 % Drops Sig: One (1) Drop Ophthalmic HS
2. Atorvastatin 80mg qd
3. Aspirin 81 mg Tablet, Delayed Release (E.C.) Sig: One (1)
Tablet, Delayed Release (E.C.) PO DAILY (Daily).
4. Albuterol Sulfate 90 mcg/Actuation HFA Aerosol Inhaler Sig:
Four (4) Puff Inhalation Q4H (every 4 hours) as needed.
5. Lorazepam 0.5 mg Tablet Sig: ___ Tablets PO HS
6. Clopidogrel 75 mg qd
7. Amiodarone 400mg q12
8. Prednisone 3mg qam
9. Metoprolol Tartrate 12.5 bid
10. Pantoprazole 40 mg bid
11. Zosyn 4.5 gram tid
12. Oxycodone 5 mg Capsule Sig: One (1) Capsule PO every six (6)
hours as needed for pain 
13. Acyclovir 400 mg Tablet Sig: One (1) q8 
 
Discharge Medications:
1. Piperacillin-Tazobactam-Dextrs 4.5 gram/100 mL Piggyback Sig: 
4.5 g Intravenous Q8H (every 8 hours) for 1 weeks.
Disp:*qs mL* Refills:*2*
2. Latanoprost 0.005 % Drops Sig: One (1) Drop Ophthalmic HS (at 
bedtime).  
3. Atorvastatin 80 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
4. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
5. Lorazepam 0.5 mg Tablet Sig: One (1) Tablet PO Q4H (every 4 
hours) as needed.  
6. Clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
7. Amiodarone 200 mg Tablet Sig: Two (2) Tablet PO BID (2 times 
a day).  
8. Metoprolol Tartrate 25 mg Tablet Sig: 0.5 Tablet PO twice a 
day.  
9. Acyclovir 200 mg Capsule Sig: Two (2) Capsule PO Q8H (every 8 
hours).  
10. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q12H (every 12 hours).  
11. Oxycodone 5 mg Tablet Sig: One (1) Tablet PO every six (6) 
hours: Please do not drive while taking this medication as it 
can have sedative side effects.  
12. Prednisone 5 mg Tablet Sig: tapered dose Tablet PO as 
directed: Please take 4 tablets for 3 ___, then take 
2 tablets for 3 ___, then take 1.5 tablets daily 
until instructed to change your dose by a doctor.
Disp:*84 Tablet(s)* Refills:*1*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary: 
-Dehydration
-Adrenal Insufficiency
.
Secondary: 
-Recent perforated diverticulum leading to sigmoid resection, 
___ procedure and end colostomy. (___)
- CAD, STEMI in ___ s/p PCI/stenting to RCA  
- Endoscopic CABG x 1 ___  
- RCA stent ___  
- h/o AML, s/p chemotherapy, radiation and bone marrow 
transplantation  
- Hypertension  
- Hypercholesterolemia  
- GERD  
- Type two diabetes mellitus - diet controlled  
- Diverticulosis, noted on colonoscopy ___ years ago  
- Occasional bronchospasm treated with Primatene Mist  
- History of SVC clot ___ PORT (s/p course of lovenox)  
- History of C.Diff ___ & ___  
- History of VRE  
- History of Shingles  
- History of Asthma  

 
Discharge Condition:
Good. At time of dicharge the patient was clinically stable and 
in no apparent distress. 

 
Discharge Instructions:
It was a pleasure taking care of you here at ___ 
___.  
.
You were admitted after complaints of dizziness and some nausea. 
Additional imaging of your brain with a CT scan showed no 
evidence of any strokes. After further assessment the medical 
team felt you were 
slightly dehydrated and you were given additional IVFs after 
admission which helped your dizziness to improve. We believe 
your symptoms may also have been caused by a mild element of 
adrenal insufficiency.  We also had the neurologists assess you 
and they do not feel your symptoms represent a neurologic 
problem. 
.
We also did a CT scan of your abdomen which showed that you 
still have an abscess which is improving but you should continue 
the Zosyn until you see your surgeon next week.
.
We added TEDS (compression stalkings) to use in the day time to 
help your dizziness.  In addition, we started you on a 
prednisone taper to get you to a different level of maintanence 
prednisone that is different from before. No other changes were 
made to your medication regimen.
.
Please follow up with Dr. ___ on ___ and Dr. 
___ on ___.
.
If you have any additional dizziness, confusion, severe 
headaches, slurred speech, sudden weakness, numbness, bleeding 
at ostomy site, fever, chills, abdominal pains, worsening 
nausea, vomiting, chest pains, shortness of breath, 
palpitations, or any additional health concerns please return to 
the emergency room or call your doctor. 
.
 
Followup Instructions:
___